US07705154B2
To a dry 500 mL round bottom flask equipped with magnetic stirrer, nitrogen inlet, addition funnel, thermometer, and reflux condenser was charged 1-but-1-enylpyrrolidine but-1-enylpyrrolidine (15.0 mL, 0.12 mol, freshly distilled @15 mmHg 65-78° C.) and anhydrous acetonitrile (150 mL). 4-Ethoxy-1,1,1-trifluorobut-3-en-2-one (24 mL, 0.12 mol) was added dropwise and stirred at room temperature for two hours. Ammonium acetate (18.5 g, 0.389 mol) was then added in one portion, and the mixture heated to reflux for one hour and then at ambient temperature overnight. The reaction mixture was poured into water (200 mL) and the aqueous mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water, brine and dried (MgSO4), filtered, and concentrated under reduced pressure on a rotary evaporator. The residue was purified by column chromatography on silica gel with a gradient (15 min) of 100% hexane to 50% ethyl acetate, 50% hexane. The pure fractions were combined, and concentrated in vacuo to afford 12.6 g of 5-ethyl-2-trifluoromethylpyridine as a red liquid; 1H NMR (CDCl3) δ 8.58 (s, 1H), 7.68 (d, 1H), 7.61 (d, 1H), 2.73 (q, 1H), 1.28 (d 3H).

reactant | 1-but-1-enylpyrrolidine but-1-enylpyrrolidine | C(=CCC)N1CCCC1.C(=CCC)N1CCCC1 | 2C8H15N
reactant | acetonitrile | 150 mL | C(C)#N | C2H3N
reactant | 4-Ethoxy-1,1,1-trifluorobut-3-en-2-one | 0.12 mol, 24 mL | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
reactant | Ammonium acetate | 0.389 mol, 18.5 g | C(C)(=O)[O-].[NH4+]
solvent | water | 200 mL | O | H2O
product | 5-ethyl-2-trifluoromethylpyridine | 12.6 g | C(C)C=1C=CC(=NC1)C(F)(F)F | C8H8F3N
